US08492548B2
To a solution of (R)—((R)-quinuclidin-3-yl) 2-phenyl-2-(phenylamino)acetate (diastereomer 1 of I2) (75 mg, 0.22 mmol) in EtOAc (5 ml), was added ethyl 4-(2-bromoacetyl)benzoate (I12) (66.5 mg, 0.24 mmol), and the reaction was stirred at room temperature for 15 hours. The solvent was evaporated and the crude was triturated with i-Pr2O-EtOAc (1/1) to obtain (R)-1-(2-(4-(ethoxycarbonyl)phenyl)-2-oxoethyl)-3-((R)-2-phenyl-2-(phenylamino)acetoxy)-1-azoniabicyclo[2.2.2]octane bromide (128.5 mg, 95% yield).

reactant | (R)—((R)-quinuclidin-3-yl) 2-phenyl-2-(phenylamino)acetate | 0.22 mmol, 75 mg | C1(=CC=CC=C1)[C@H](C(=O)O[C@H]1CN2CCC1CC2)NC2=CC=CC=C2 | C21H24N2O2
reactant | ethyl 4-(2-bromoacetyl)benzoate | 0.24 mmol, 66.5 mg | BrCC(=O)C1=CC=C(C(=O)OCC)C=C1 | C11H11BrO3
solvent | EtOAc | 5 ml | CCOC(=O)C | C4H8O2
product | (R)-1-(2-(4-(ethoxycarbonyl)phenyl)-2-oxoethyl)-3-((R)-2-phenyl-2-(phenylamino)acetoxy)-1-azoniabicyclo[2.2.2]octane bromide | 128.5 mg, 95% yield | [Br-].C(C)OC(=O)C1=CC=C(C=C1)C(C[N+]12C[C@@H](C(CC1)CC2)OC([C@H](NC2=CC=CC=C2)C2=CC=CC=C2)=O)=O | InChI=1S/C32H35N2O5.BrH/c1-2-38-31(36)26-15-13-23(14-16-26)28(35)21-34-19-17-24(18-20-34)29(22-34)39-32(37)30(25-9-5-3-6-10-25)33-27-11-7-4-8-12-27;/h3-16,24,29-30,33H,2,17-22H2,1H3;1H/q+1;/p-1/t24?,29-,30+,34?;/m0./s1
